US09359367B2
Step 4: 4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpentanenitrile
To the stirred solution of (E)-4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpent-2-enenitrile (1.5 g), was added sodumborohydride (0.453 mg) in dimethoxyethane (30 ml) and stirred at room temperature for 1 hour before being heated to 75° C. for 2 h. The solution was cooled to room temperature and allowed to stirrer at 25° C. for 24 h then quenched with saturated ammonium chloride (50 mL). The aqueous phase was extracted with dichloromethane (3×50 ml). The organic phase was dried over sodium sulphate and concentrated under vacuum. The residue was purified by flash column chromatography using 20% ethyl acetate in hexane as an eluent to obtain the title compound (1.3 g, 58.6%).

reactant | (E)-4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpent-2-enenitrile | 1.5 g | FC1=CC=C(C=C1)N1CCN(CC1)C(/C=C/C#N)(C)C | C16H20FN3
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
product | 4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpentanenitrile | 1.3 g, 58.6% | FC1=CC=C(C=C1)N1CCN(CC1)C(CCC#N)(C)C | C16H22FN3
